US07863271B2
To a solution of methyl 2-thioxo-2,3-dihydrobenzoxazole-4-carboxylate (150 mg, 0.72 mmol) in THF (6 mL) was added a solution of lithium hydroxide monohydrate (45.1 mg, 1.08 mmol) in H2O (3 mL). The reaction mixture was heated to 75° C. with stirring for 3 days, cooled down to room temperature and concentrated under reduced pressure to afford the lithium 2-thioxo-2,3-dihydrobenzoxazole-4-carboxylate (135 mg, 96.5%) as a yellow solid. MS consistent

reactant | methyl 2-thioxo-2,3-dihydrobenzoxazole-4-carboxylate | 0.72 mmol, 150 mg | S=C1OC=2C(N1)=C(C=CC2)C(=O)OC | C9H7NO3S
reactant | lithium hydroxide monohydrate | 1.08 mmol, 45.1 mg | O.[OH-].[Li+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | H2O | 3 mL | O | H2O
product | lithium 2-thioxo-2,3-dihydrobenzoxazole-4-carboxylate | 135 mg, 96.5% | S=C1OC=2C(N1)=C(C=CC2)C(=O)[O-].[Li+] | InChI=1S/C8H5NO3S.Li/c10-7(11)4-2-1-3-5-6(4)9-8(13)12-5;/h1-3H,(H,9,13)(H,10,11);/q;+1/p-1
